US05025031
3-(2-Ethoxyphenoxy)-1,2-propanediol
A solution of 41.5 g (0.3 mole) of 2-ethoxyphenol, 29.6 g (0.4 mole) of glycidol, 2 ml of pyridine and 150 ml of absolute ethanol was heated at reflux temperature for 18 hr. The mixture was concentrated to a thick oil that crystallized slowly over several days. The crude product was chromatographed on a silica gel column (1.2 kg) using increasing portions of acetone in methylene chloride to elute the product. The desired fractions were combined and concentrated to give a yellow oil that crystallized on standing. The solid was triturated with petroleum ether and the mixture filtered to obtain 41.8 g of solid. Recrystallization from carbon tetrachloride yielded 37.2 g (58%) of white solid, mp 64°-65° C.

reactant | 2-ethoxyphenol | 0.3 mole, 41.5 g | C(C)OC1=C(C=CC=C1)O | C8H10O2
reactant | glycidol | 0.4 mole, 29.6 g | C1C(O1)CO | C3H6O2
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-(2-Ethoxyphenoxy)-1,2-propanediol | 41.8 g | C(C)OC1=C(OCC(CO)O)C=CC=C1 | C11H16O4
